US07179804B2
[4-[1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazole-4-carbonyl]-5-(2-chloro-phenyl)-isoxazol-3-yl]-acetaldehyde
Dissolve [1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazol-4-yl]-[5-(2-chloro-phenyl)-3-[1,3]dioxolan-2-ylmethyl-isoxazol-4-yl]-methanone (0.23 g, 0.35 mmol) in acetic acid (4 mL) and add H2O (2 mL). Attach a reflux condenser and warm to 100° C. After 18 h., concentrate the solution under reduced pressure, neutralize with sat. aq. NaHCO3, and extract with CH2Cl2 and EtOAc (2×). Dry the combined organic layers over MgSO4, filter, and concentrate to give the title compound: MS (ES) 619.2 (M+1); TLC Rf=0.35 (5% MeOH/EtOAc).

reactant | [1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazol-4-yl]-[5-(2-chloro-phenyl)-3-[1,3]dioxolan-2-ylmethyl-isoxazol-4-yl]-methanone | 0.35 mmol, 0.23 g | FC(C=1C=C(CN2C=NC(=C2C=2C=NC=CC2)C(=O)C=2C(=NOC2C2=C(C=CC=C2)Cl)CC2OCCO2)C=C(C1)C(F)(F)F)(F)F | C31H21ClF6N4O4
reactant | H2O | 2 mL | O | H2O
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | [4-[1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazole-4-carbonyl]-5-(2-chloro-phenyl)-isoxazol-3-yl]-acetaldehyde | FC(C=1C=C(CN2C=NC(=C2C=2C=NC=CC2)C(=O)C=2C(=NOC2C2=C(C=CC=C2)Cl)CC=O)C=C(C1)C(F)(F)F)(F)F | C29H17ClF6N4O3
